US06372746B1
To a solution of 1.0 g (7.81 mmol) of 3-thienylcarboxylic acid and 1 mL (7.86 mmol) of triethylamine in 30 mL of CH2Cl2 cooled to 0° C. 0.84 g (7.81 mmol) of ethyl chloroformiate are added. The mixture is maintained at 0° C. for 20 minutes and then 1.5 g (7.81 mmol) of 4-methoxy-2-(1-piperazinyl) pyrimidine dissolved in 10 mL of CH2Cl2 are added to the solution. The temperature is allowed to rise to room temperature and the solution continually stirred for 2 hours and the organic phase is washed with H2O, dried over NaSO4 and the solvent evaporated off under reduced pressure. The resulting oil is treated with ethyl ether to yield a solid which is recrystallised from ethanol/H2O to give 0.8 g (2.63 mmol) of 4-methoxy-2-[4-(3-thienylcarbonyl)-1-piperazinyl]pyrimidine. m.p.=90-92° C.

reactant | 3-thienylcarboxylic acid | 7.81 mmol, 1.0 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | triethylamine | 7.86 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-2-(1-piperazinyl) pyrimidine | 7.81 mmol, 1.5 g | COC1=NC(=NC=C1)N1CCNCC1 | C9H14N4O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-methoxy-2-[4-(3-thienylcarbonyl)-1-piperazinyl]pyrimidine | 2.63 mmol, 0.8 g | COC1=NC(=NC=C1)N1CCN(CC1)C(=O)C1=CSC=C1 | C14H16N4O2S
